US04652584
A solution of 5.0 g (0.016 mole) of [(2-iodo-5-methoxyphenoxy)methyl]oxirane, the product of Example 5b. and 3.25 g (0.0179 mole) of homoveratrylamine in 10 ml of sulfolane was heated at 60°-70° C. for 18 hr. Water was added and the precipitate which formed was collected by filtration. It was recrystallized from acetonitrile to give 7.0 g (87% yield) of crystalline 1-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-3-(2-iodo-5-methoxyphenoxy)-2-propanol, mp 83°-88° C.

reactant | [(2-iodo-5-methoxyphenoxy)methyl]oxirane | 0.016 mole, 5.0 g | IC1=C(OCC2OC2)C=C(C=C1)OC | C10H11IO3
reactant | homoveratrylamine | 0.0179 mole, 3.25 g | C(CC1=CC(OC)=C(OC)C=C1)N | C10H15NO2
reactant | Water | O | H2O
solvent | sulfolane | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-3-(2-iodo-5-methoxyphenoxy)-2-propanol | 7.0 g, 87% yield | COC=1C=C(C=CC1OC)CCNCC(COC1=C(C=CC(=C1)OC)I)O | C20H26INO5
